US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(3-carboxy-propyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(3-ethoxycarbonyl-propyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine (0.32 g, 0.41 mmol) and lithium hydroxide hydrate (0.052 g, 1.23 mmol) in 4/1 tetrahydrofuran/water (20 mL). After 20 hours, dilute the reaction mixture with water and evaporate in vacuo to remove most of the tetrahydrofuran. Acidify to pH 2 using 1 M hydrochloric acid solution and cool to 5° C. to obtain a solid. Collect the solid by filtration. Suspend the solid in diethyl ether (150 mL) and stir. After 18 hours, collect the solid by filtration and dry to give the title compound: mp; 125-140° C. Elemental Analysis calculated for C39H44Cl2N4O7·HCl: C 59.43; H 5.75; N 7.11; Found: C 59.55; H 5.81; N 6.94.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(3-ethoxycarbonyl-propyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | 0.41 mmol, 0.32 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCCC(=O)OCC)C=CC=C3)C=C(C1OC)OC | C41H48Cl2N4O7
reactant | lithium hydroxide hydrate | 1.23 mmol, 0.052 g | O.[OH-].[Li+]
reactant | tetrahydrofuran water | 20 mL | O1CCCC1.O
solvent | water | O | H2O
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(3-carboxy-propyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCCC(=O)O)C=CC=C3)C=C(C1OC)OC | C39H44Cl2N4O7
